US05624937
1-[4-(2-Naphthylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-Aminophenylthio)naphthalene (4.2 mmoles, 1.06 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (4.2 mmoles, 0.93 g) were reacted according to procedure A to yield of the title compound 0.7 g, 34%. Mass Spec (FD) 489. Calculated for C24H16ClF3N2S2 : C,; H, N, Found: C,; H,; N,.

reactant | 2-(4-Aminophenylthio)naphthalene | 4.2 mmoles, 1.06 g | NC1=CC=C(C=C1)SC1=CC2=CC=CC=C2C=C1 | C16H13NS
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 4.2 mmoles, 0.93 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-Naphthylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 0.7 g, 34% | C1=C(C=CC2=CC=CC=C12)SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C24H16ClF3N2S2
